US07855214B2
5-(Thiazol-2-ylamino)-quinazolino[3,2-a]quinazolin-12-one
A pressure tube was charged with 5-chloro-quinazolino[3,2-a]quinazolin-12-one (200 mg, 0.71 mmol), Pd2(dba)3 (25 mg, 0.028 mmol), Xantphos (25 mg, 0.043 mmol), 2-aminothiazole (71 mg, 0.85 mmol), Na2CO3 (fine powder, 71 mg, 0.85 mmol) and anhydrous dioxane/toluene (1:1, 5 mL). The mixture was stirred with heating at 100 deg C. for 17 hours. After this period the mixture was cooled, concentrated in vacuo and purified by preparative chromatography, to yield the desired product (TFA salt) as a yellow powder (130 mg).

reactant | 5-chloro-quinazolino[3,2-a]quinazolin-12-one | 0.71 mmol, 200 mg | ClC1=NC=2N(C=3C=CC=CC13)C(C=1C=CC=CC1N2)=O | C15H8ClN3O
reactant | Xantphos | 0.043 mmol, 25 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 2-aminothiazole | 0.85 mmol, 71 mg | NC=1SC=CN1 | C3H4N2S
reactant | Na2CO3 | 0.85 mmol, 71 mg | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd2(dba)3 | 0.028 mmol, 25 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane toluene | 5 mL | O1CCOCC1.C1(=CC=CC=C1)C
product | 5-(Thiazol-2-ylamino)-quinazolino[3,2-a]quinazolin-12-one | 130 mg | S1C(=NC=C1)NC1=NC=2N(C=3C=CC=CC13)C(C=1C=CC=CC1N2)=O | C18H11N5OS
